US06953801B2
(S)2-(4-Benzyl-piperazin-2-yl)-ethanol (2.2 g, 10 mmol) was dissolved in anhydrous dichloromethane (100 mL) at room temperature. Di-tert-butyl dicarbonate (BOC anhydride) was added (2.20 g, 11 mmol) and the resulting solution was stirred at room temperature overnight. The reaction was quenched by diluting with brine. The organic phase was separated and the aqueous phase was washed with dichloromethane. The organic phases were combined and washed with brine (2×50 mL), dried (MgSO4), and filtered. Solvent removal under reduced pressure afforded 4-benzyl-2-(2-hydroxy-ethyl)-piperazine-1-carboxylic acid tert-butyl ester as a clear oil (3.13 g, 98% yield). MS: 320 (M+). H-1 NMR (400 MHz, CDCl3): 7.3 (5H, br), 4.28 (1H, br), 4.0 (1H, br), 3.8 (1H, br), 3.6 (1H, br), 3.5 (2H, br), 3.4 (1H, m), 3.0 (1H, t), 2.6-2.8 (2H, br), 2.22 (1H, dd, J=4; 11.4Hz) 2.02 (1H, dt, J=3.5; 11.7 Hz), 1.46 (s, 9H).

reactant | (S)2-(4-Benzyl-piperazin-2-yl)-ethanol | 10 mmol, 2.2 g | C(C1=CC=CC=C1)N1C[C@@H](NCC1)CCO | C13H20N2O
reactant | Di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-benzyl-2-(2-hydroxy-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | 3.13 g, 98% yield | C(C)(C)(C)OC(=O)N1C(CN(CC1)CC1=CC=CC=C1)CCO | C18H28N2O3
